US07741327B2
To a solution of [(S)-1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-2-(tetrahydro-pyran-2-yl)-ethyl]-carbamic acid t-butyl ester (570 mg) in dichloromethane (3 mL) was added trifluoroacetic acid (3 mL). The mixture was stirred at room temperature for 30 min. Solvents were evaporated and the residue was dried in vacuo. The waxy solid was dissolved in a methanolic hydrogen chloride solution. Solvents were evaporated and the residue was dried in vacuo. The white solid was triturated with diethyl ether and filtered to afford (S)-2-amino-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-3-(tetrahydropyran-2-yl)-propionamide hydrochloride (529 mg). LR-ES-MS m/z calculated for C15H26N4O3 310 [M]+, observed [M+H]+ 311.

reactant | [(S)-1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-2-(tetrahydro-pyran-2-yl)-ethyl]-carbamic acid t-butyl ester | 570 mg | C(C)(C)(C)OC(N[C@@H](CC1OCCCC1)C(NC1=NN(C=C1)CC(C)(C)O)=O)=O | C20H34N4O5
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (S)-2-amino-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-3-(tetrahydropyran-2-yl)-propionamide hydrochloride | 529 mg | Cl.N[C@H](C(=O)NC1=NN(C=C1)CC(C)(C)O)CC1OCCCC1 | InChI=1S/C15H26N4O3.ClH/c1-15(2,21)10-19-7-6-13(18-19)17-14(20)12(16)9-11-5-3-4-8-22-11;/h6-7,11-12,21H,3-5,8-10,16H2,1-2H3,(H,17,18,20);1H/t11?,12-;/m0./s1
